US08912198B2
Step 1: 4-iodobenzaldehyde oxime 15
To a stirred suspension of 4-iodobenzaldehyde (2000 mg, 8.620 mmol) in ethanol (9.000 mL) cooled in an ice bath, hydroxylamine (569.4 μL of 50% w/v, 8.620 mmol) was added and the reaction was removed from ice bath and stirred at rt for 1 h. After this time the reaction mixture was heated at 50° C. for 1 h and then cooled to rt and concentrated in vacuo to leave the title compound as a white solid (2.03 g, 95% yield); 1H NMR (400 MHz, DMSO) d 7.38 (m, 2H), 7.76 (m, 2H), 8.11 (s, 1H) and 11.37 (s, 1H) ppm; MS (ES+) 248.1.

reactant | 4-iodobenzaldehyde | 8.620 mmol, 2000 mg | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | hydroxylamine | 8.620 mmol, 569.4 μL | NO | H3NO
solvent | ethanol | 9.000 mL | C(C)O | C2H6O
product | 4-iodobenzaldehyde oxime | 2.03 g, 95% yield | IC1=CC=C(C=NO)C=C1 | C7H6INO
